US07427630B2
4-Chloro-N-[1-(4-chlorobutanoyl)-1H-pyrazol-3-yl]butanamide
To a solution of 3-aminopyrazole (300 mg, 3.61 mmol) in anh. CH2Cl2 (6 mL), at r.t., under N2, was added K2HPO4 (1.26 g, 2 eq) and the reaction mixture was stirred at r.t. for 15 min. 4-Chloro-butyryl chloride (406 μL, 3.6 mmol) was then added and the reaction mixture was stirred for 24 hr. It was then poured into water and the phases were separated. The aqueous layer was extracted with EtOAc (2×20 mL) and the combined organic extracts were dried over anh. Na2SO4. The solids were filtered and the solvent evaporated. The crude product was purified by flash chromatography (silica gel, cHex/EtOAc 7:3) to give the title compound as a white solid (354 mg, 34%)

reactant | 3-aminopyrazole | 3.61 mmol, 300 mg | NC1=NNC=C1 | C3H5N3
reactant | K2HPO4 | 1.26 g, 2 eq | OP(=O)([O-])[O-].[K+].[K+]
reactant | 4-Chloro-butyryl chloride | 3.6 mmol, 406 μL | ClCCCC(=O)Cl | C4H6Cl2O
reactant | water | O | H2O
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | 4-Chloro-N-[1-(4-chlorobutanoyl)-1H-pyrazol-3-yl]butanamide | 354 mg, 34% | ClCCCC(=O)NC1=NN(C=C1)C(CCCCl)=O | C11H15Cl2N3O2
